US05192766
4-Acetoxy-3,5-dimethoxybenzoic acid
To a mixture of 3,5-dimethoxy-4-hydroxybenzoic acid (3.00 g) and acetic anhydride (30 ml) was dropwise added pyridine (15 ml) with ice-cooling over a 5 minutes period. After stirring at room temperature for 30 minutes, the reaction mixture was poured into water and stirred at room temperature for 30 minutes followed by extracting thrice with ethyl acetate. The combined extract was washed with 10% hydrochloric acid, dried and concentrated. The residue was recrystallised from a mixture of methylene chloride and hexane to afford the title compound (3.13 g), melting at 192°-194° C.

reactant | 3,5-dimethoxy-4-hydroxybenzoic acid | 3.00 g | COC=1C=C(C(=O)O)C=C(C1O)OC | C9H10O5
reactant | acetic anhydride | 30 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 4-Acetoxy-3,5-dimethoxybenzoic acid | 3.13 g | C(C)(=O)OC1=C(C=C(C(=O)O)C=C1OC)OC | C11H12O6
